US07238808B2
3-Pyrimidin-5-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
To a flask was added 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (159 mg, 0.45 mmol), 4-Bromopyrimidine (87 mg, 0.55 mmol, commercially available [CAS 4595-59-9]), PdCl2(NCPh)2 (13 mg, 7 mol %), and CuI (10 mg, 12 mol %). The flask was charged with Ar, then 3 mL of dioxane (degassed with Ar), tri-(tert-butyl)phosphine (0.12 mL of a 0.25M soln in dioxane, 33 mol %), and diisopropylamine (0.15 mL) were added. The r×n mixture was stirred at 23° C. under Ar overnight, then filtered through a pad of Si-gel, concentrated, purified by Si-gel chromatography (EtOAc/heptane 5-40:95–60) to give an orange solid. Recrytallization from EtOAc/heptane (1:2) yielded the product as an orange solid (131 mg, 68%). MS (ISP) 434.1 [(M+H)+]; mp 175° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.45 mmol, 159 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-Bromopyrimidine | BrC1=NC=NC=C1 | C4H3BrN2
reactant | tri-(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | diisopropylamine | 0.15 mL | C(C)(C)NC(C)C | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | CuI | 10 mg | [Cu]I
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc heptane | CCOC(=O)C.CCCCCCC
product | 3-Pyrimidin-5-ylethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 131 mg, 68% | N1=CN=CC(=C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C20H9F6N5
